US06458792B1
a) {1-[6-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyridin-2-ylmethyl]-1H-indol-3-yl}-oxo-acetic Acid 2,5-Dioxo-pyrrolidin-1-yl Ester
2-(6-Indol-1-ylmethyl-pyridin-2-ylmethyl)-isoindole-1,3-dione (2.70 g, 7.35 mmol) was dissolved in dichloromethane (50 ml) and cooled to 0° C. Oxalylchloride (0.63 ml, 7.35 mmol) was added and the reaction kept at 0° C. for 30 minutes before the addition of N-hydroxysuccinimide (0.85 g, 7.35 mmol) followed by careful addition of pyridine (1.19 ml, 14.7 mmol). The reaction was kept at 0° C. for 30 minutes before it was allowed to slowly regain room temperature during 3 hours and then washed with water (40 ml) and brine (2×50 ml). The organic layer was dried over MgSO4 followed by removal of the solvent in vacuo to obtain the sub-title product (3.34 g, 85%).

reactant | 2-(6-Indol-1-ylmethyl-pyridin-2-ylmethyl)-isoindole-1,3-dione | 7.35 mmol, 2.70 g | N1(C=CC2=CC=CC=C12)CC1=CC=CC(=N1)CN1C(C2=CC=CC=C2C1=O)=O | C23H17N3O2
reactant | Oxalylchloride | 7.35 mmol, 0.63 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-hydroxysuccinimide | 7.35 mmol, 0.85 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | pyridine | 14.7 mmol, 1.19 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | {1-[6-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyridin-2-ylmethyl]-1H-indol-3-yl}-oxo-acetic Acid 2,5-Dioxo-pyrrolidin-1-yl Ester | 3.34 g, 85% | O=C1N(C(CC1)=O)OC(C(=O)C1=CN(C2=CC=CC=C12)CC1=NC(=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O)=O | C29H20N4O7
